US07504403B2
1-(6-Chloro-pyrazin-2-yl)-7-phenyl-2,3-dihydro-1H -imidazo[1,2-a]pyridin-5-one.
Following the procedure described in the synthesis of 1-(2-methylsulfanyl-pyrimidin -4-yl)-7-phenyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one, but using 2,6-dichloropyrimidine as the coupling component, 7-phenyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one (0.5 g, 2.4 mmol) was converted into the title product as a pale yellow solid. MS m/e 325 (M+H)+.

reactant | 1-(2-methylsulfanyl-pyrimidin -4-yl)-7-phenyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | CSC1=NC=CC(=N1)N1CCN2C1=CC(=CC2=O)C2=CC=CC=C2 | C18H16N4OS
reactant | 2,6-dichloropyrimidine | ClC1=NC(=CC=N1)Cl | C4H2Cl2N2
reactant | 7-phenyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | 2.4 mmol, 0.5 g | C1(=CC=CC=C1)C=1C=C2N(C(C1)=O)CCN2 | C13H12N2O
product | 1-(6-Chloro-pyrazin-2-yl)-7-phenyl-2,3-dihydro-1H -imidazo[1,2-a]pyridin-5-one | ClC1=CN=CC(=N1)N1CCN2C1=CC(=CC2=O)C2=CC=CC=C2 | C17H13ClN4O
